US09422281B2
N,N-Diisopropylethylamine (0.486 mL, 2.79 mmol) was added to a solution of (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)-2,2,2-trifluoroethanone (0.300 g, 0.928 mmol) and cyclopentyl chloroformate (0.144 mL, 1.114 mmol) in 1,2-dichloroethane (6.0 mL), and the mixture stirred at 50° C. for 3 days. Additional N,N-diisopropylethylamine (0.486 mL, 2.79 mmol) and cyclopentyl chloroformate (0.28 mL, 2.22 mmol) were added, and the mixture stirred at 50° C. for 16 h. The reaction mixture was concentrated to afford an off-white solid. This material was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 0-25% ethyl acetate-hexane) to afford (S)-cyclopentyl 7-bromo-3-methyl-4-(2,2,2-trifluoroacetyl)-3,4-dihydroquinoxaline-1(2H)-carboxylate (0.390 g, 97%) as a yellow oil. MS (ESI, pos. ion) m/z 435, 437 [M+1]+.

reactant | N,N-Diisopropylethylamine | 2.79 mmol, 0.486 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)-2,2,2-trifluoroethanone | 0.928 mmol, 0.300 g | BrC=1C=C2NC[C@@H](N(C2=CC1)C(C(F)(F)F)=O)C | C11H10BrF3N2O
reactant | cyclopentyl chloroformate | 1.114 mmol, 0.144 mL | ClC(=O)OC1CCCC1 | C6H9ClO2
reactant | N,N-diisopropylethylamine | 2.79 mmol, 0.486 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | cyclopentyl chloroformate | 2.22 mmol, 0.28 mL | ClC(=O)OC1CCCC1 | C6H9ClO2
solvent | 1,2-dichloroethane | 6.0 mL | ClCCCl | C2H4Cl2
product | (S)-cyclopentyl 7-bromo-3-methyl-4-(2,2,2-trifluoroacetyl)-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.390 g, 97% | BrC1=CC=C2N([C@H](CN(C2=C1)C(=O)OC1CCCC1)C)C(C(F)(F)F)=O | C17H18BrF3N2O3
